US04371537
To 4.95 g of 4-(trifluoromethylthio)phenol dissolved in a 20 ml THF/20 ml DMSO mixture was added 2.9 g of t-BuOK and then 6.0 g of 2,5-bis(methylsulfonyl) pyridine, and the resulting mixture heated at 58° C. for 11/2 hrs. The reaction mixture was cooled to room temperature and added to approximately 3 to 4 volumes of water. The yellow-brown precipitate that formed was removed by filtration and then recrystallized from CH2Cl2 /ethanol. The purified product, 5-(methylsulfonyl)-2-(4-((trifluoromethyl)thio)phenoxy)pyridine, (60% yield), was recovered as tiny cream-white plates, m.p. 134°-135° C.

reactant | 4-(trifluoromethylthio)phenol | 4.95 g | FC(SC1=CC=C(C=C1)O)(F)F | C7H5F3OS
reactant | t-BuOK | 2.9 g | CC(C)(C)[O-].[K+]
reactant | 2,5-bis(methylsulfonyl) pyridine | 6.0 g | CS(=O)(=O)C1=NC=C(C=C1)S(=O)(=O)C | C7H9NO4S2
reactant | water | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 5-(methylsulfonyl)-2-(4-((trifluoromethyl)thio)phenoxy)pyridine | 60% yield | CS(=O)(=O)C=1C=CC(=NC1)OC1=CC=C(C=C1)SC(F)(F)F | C13H10F3NO3S2
